US06124323
1-[2-(4-Hydroxyphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride
1-[2-(4-Benzyloxyphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride. A mixture of 2-(4-benzyloxyphenoxy)ethyl bromide (368 mg, 1.2 mmol), 4-(4-methylbenzyl)-4-hydroxypiperidine hydrochloride (290 mg, 1.2 mmol), potassium carbonate (414 mg, 3 mmol) in 30 mL of acetonitrile was allowed to reflux for 12 h. The inorganic salt was removed through a short column of silica gel and washed with ethyl acetate (3×25 mL). The combined flitrate was evaporated in vacuo to give a crude mixture, which was purified by flash chromatography (5% methanol in ethyl acetate), giving a pale yellow oil, which was disolved into methanol (10 mL), to which was added 4 mL of 1 M HCl in methanol. The resulting solution was allowed to stir at rt for 10 min, and methanol was evaporated in vacuo to give a residue, to which 50 mL of ether was added. The resulting mixture was stirred overnight. A white solid was collected by filtration and dried in vacuo, giving 420 mg (75%) of the title product: mp 179-181° C. 1H NMR (CDCl3) 1.605 (s, 2 H), 1.725 (d, J=14.1 Hz, 2 H), 2.332 (s, 3 H), 2.453 (m, 2 H), 2.809 (s, 2 H), 3.221 (m, 2 H), 3.361 (s, 1 H), 3.464 (d, J=8.4 Hz, 2 H), 4.488 (s, 2 H), 5.005 (s, 2 H), 6.820 (d, J=9.0 Hz, 2 H), 6.904 (d, J=9.0 Hz, 2 H), 7.077 (d, J=7.5 Hz, 2 H), 7.166 (d, J=7.5 Hz, 2 H), 7.376 (m, 5 H), 12.4 (bs, 1 H).

reactant | 1-[2-(4-Benzyloxyphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(OCCN2CCC(CC2)(CC2=CC=C(C=C2)C)O)C=C1
reactant | 2-(4-benzyloxyphenoxy)ethyl bromide | 1.2 mmol, 368 mg | C(C1=CC=CC=C1)OC1=CC=C(OCCBr)C=C1 | C15H15BrO2
reactant | 4-(4-methylbenzyl)-4-hydroxypiperidine hydrochloride | 1.2 mmol, 290 mg | Cl.CC1=CC=C(CC2(CCNCC2)O)C=C1
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 M, 4 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 1-[2-(4-Hydroxyphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride | 420 mg, 75% | Cl.OC1=CC=C(OCCN2CCC(CC2)(CC2=CC=C(C=C2)C)O)C=C1 | InChI=1S/C21H27NO3.ClH/c1-17-2-4-18(5-3-17)16-21(24)10-12-22(13-11-21)14-15-25-20-8-6-19(23)7-9-20;/h2-9,23-24H,10-16H2,1H3;1H
